US07163937B2
The compound [(1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(vinyl)-cyclohexyl]-carbamic acid benzyl ester (0.82 g, 2.2 mmol) was dissolved in THF (15 mL). The resultant solution was cooled to 0° C. and charged with 9-BBN (11 mL of a 0.5 M solution in THF). The mixture was stirred for 20 h at RT and then quenched sequentially with aqueous sodium acetate (0.6 g in 1.5 mL water) and 30% hydrogen peroxide (1.5 mL). This was stirred at RT for 14 h and partitioned between EtOAc and sat. NaHCO3. The aqueous phase was extracted with EtOAc, and the combined organic extracts were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography to afford [(1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(hydroxyethyl)-cyclohexyl]-carbamic acid benzyl ester (0.42 g) as a white foam. MS found: (M+H)+=393.

reactant | (1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(vinyl)-cyclohexyl]-carbamic acid benzyl ester | 2.2 mmol, 0.82 g | C(C1=CC=CC=C1)OC(N[C@@H]1[C@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)C=C)=O | C21H30N2O4
reactant | 9-BBN | B1C2CCCC1CCC2 | C8H15B
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | (1S,2R,4R)-[4-tert-butoxycarbonylamino-2-(hydroxyethyl)-cyclohexyl]-carbamic acid benzyl ester | 0.42 g | C(C1=CC=CC=C1)OC(N[C@@H]1[C@H](C[C@@H](CC1)NC(=O)OC(C)(C)C)CCO)=O | C21H32N2O5
